US04426386
Example E2. N-pentyl-3-(3-hydroxyphenyl)piperidine hydrochloride (Method a)
N-Pentyl-3-(3-methoxyphenyl)piperidine (1.3 g, 0.005 mol) in CH2Cl2 (20 ml) was cooled with dry ice and BBr3 (1.6 g, 0.006 mol) was added dropwise. The mixture was then held at -78° C. for 1 h and then allowed to reach r.t. over night. The solution was made alkaline with aqueous Na2CO3, extracted with CH2Cl2 and the organic phase dried with Na2SO4. Evaporation of the solvent afforded an oily residue which was treated with HCl-saturated ethanol (5 ml). After evaporation of solvent, purification by extractions and recrystallization (ethanol/ether), the desired product (0.40 g, 29%) was obtained, mp. 70°-80° C.

reactant | N-Pentyl-3-(3-methoxyphenyl)piperidine | 0.005 mol, 1.3 g | C(CCCC)N1CC(CCC1)C1=CC(=CC=C1)OC | C17H27NO
reactant | dry ice | C(=O)=O | CO2
reactant | BBr3 | 0.006 mol, 1.6 g | B(Br)(Br)Br | BBr3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 5 ml | Cl | ClH
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | N-pentyl-3-(3-hydroxyphenyl)piperidine hydrochloride | 0.40 g, 29% | Cl.C(CCCC)N1CC(CCC1)C1=CC(=CC=C1)O | InChI=1S/C16H25NO.ClH/c1-2-3-4-10-17-11-6-8-15(13-17)14-7-5-9-16(18)12-14;/h5,7,9,12,15,18H,2-4,6,8,10-11,13H2,1H3;1H
